US07691882B2
3-(3-(4-Butoxymethyl-benzyl)-isoxazol-5-yl)-pyridin-2,6-diamine
To a solution of 3-ethynyl-pyridin-2,6-diamine (14.6 mg, 0.11 mmol) described in Manufacturing Example 13-1-3 and 4-butoxymethyl-phenyl-acetohydroximoyl chloride (28 mg, 0.11 mmol) described in Manufacturing Example 4-1-4 in tetrahydrofuran was added triethylamine (31 μL, 0.22 mmol), which was stirred for 4 hours at room temperature. The reaction solution was partitioned into water and ethyl acetate at room temperature. The organic layer was washed with saturated aqueous sodium chloride and dried over anhydrous magnesium sulfate, and the solvent was evaporated under a reduced pressure. The residue was purified by NH silica gel column chromatography (heptane:ethyl acetate=2:1) and then purified again by reverse-phase high performance liquid chromatography (using an acetonitrile-water mobile phase containing 0.1% trifluoroacetic acid) to obtain the title compound (6.7 mg, 13%) as a trifluoroacetic acid salt.

reactant | 3-ethynyl-pyridin-2,6-diamine | 0.11 mmol, 14.6 mg | C(#C)C=1C(=NC(=CC1)N)N | C7H7N3
reactant | 4-butoxymethyl-phenyl-acetohydroximoyl chloride | 0.11 mmol, 28 mg | C(CCC)OCC1=CC=C(C=C1)CC(=NO)Cl | C13H18ClNO2
reactant | triethylamine | 0.22 mmol, 31 μL | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 3-(3-(4-Butoxymethyl-benzyl)-isoxazol-5-yl)-pyridin-2,6-diamine | 6.7 mg, 13% | C(CCC)OCC1=CC=C(CC2=NOC(=C2)C=2C(=NC(=CC2)N)N)C=C1 | C20H24N4O2
